Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][O:2]/[C:3]=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:4],4.811293914
[C:1].[C:2]=[C:3]([H:4])[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11],-7.28969135151
[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3]([H:4])([O:5][C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2],5.4958664849000005
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]([H:4])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],4.59584595953
[C:3]([H:4])[C:5]([H:6])([H:7])[H:8].[O:1]=[C:2]=[C:9]([H:10])[C:11]([H:12])[H:13]>>[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-4.78778916314
[C:1]#[C:2][C:3]([C:4]#[C:5][H:6])=[C:7]([H:8])[H:9]>>[C:1]#[C:2][C:3]([C:4]#[C:5][H:6])=[C:7][H:8].[H:9],5.24396429327
[H:1].[O:2]=[C:3]([C:4]([H:5])[H:6])[C:7]([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-2.6118950406
[H:1][C:2]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]=[C:10]([H:11])[H:12].[H:3]>>[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]=[C:10]([H:11])[H:12],-5.41381602492
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16]>>[H:1][C:2]=[C:14]([H:15])[H:16].[H:3][C:4]([H:5])=[C:12]([C:9]([C:6]([H:7])[H:8])([H:10])[H:11])[H:13],4.29744113253
[O:1]=[C:2]([C:3][O:4][H:5])[C:6]([H:7])=[C:8][H:9]>>[C:2](#[C:3][O:4][H:5])[C:6]([H:7])=[C:8][H:9].[O:1],3.36069869261
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[O:4],0.872117276609
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:5],4.79262605062
[C:1][C:2]#[C:3][C:4](=[O:5])[H:6]>>[C:1].[C:2]#[C:3][C:4](=[O:5])[H:6],6.43770772392
[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1].[O:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],1.57316465442
[H:9].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8][C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-4.93857010944
[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:9]([H:10])([H:11])[H:12].[O:7][H:8]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-4.88887456966
[C:10]([H:11])([H:12])[H:13].[H:1][O:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9]>>[H:1][O:2][O:3]/[C:4](=[C:5]\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.80761857927
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[C:5]([H:6])([H:7])=[C:8].[H:1][C:2]([H:3])=[C:4]=[C:9]([H:10])[H:11],0.655760732609
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([O:8][C:9]([H:10])([H:11])[H:12])=[C:13]([H:14])[H:15]>>[C:7]([O:8][C:9]([H:10])([H:11])[H:12])=[C:13]([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]([H:5])[H:6],1.6082576759399998
[C:1]#[C:2][C@@:3]([H:4])([O:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C:3]([H:4])[O:7][C:8]([H:9])([H:10])[H:11].[O:5][H:6],2.95686775534
[H:9].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8][C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-5.38735354116
[C:12]([H:13])([H:14])[H:15].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.7349601735
[H:1][O:2][C:3](=[C:4][H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:6]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-5.14646181176
[C:5]([H:6])[H:7].[H:1][O:2][C:3]=[C:4]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3][C:4]([C:5]([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.61425191462
[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.6154126067
[C:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],0.817548725479
[C:8]([H:9])([H:10])[H:11].[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2](=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.31274187491
